US05932595
Methanol (204 ml) was slowly added to a suspension of sodium hydride (5.48 g, 228.2 mmol) in tetrahydrofuran (204 ml) at 0° C. When addition was complete, trimethylphosphonoacetate (34.22 ml, 211.4 mmol) was added to the mixture at such a rate as to maintain the temperature below 12° C. Stirring was continued for a further 10 minutes. To this reaction mixture was added a solution of 2,3,5,6-tetrahydropyran-4-one (16.28 g, 163.0 mmol) in tetrahydrofuran (20 ml), keeping the temperature below 30° C. After the addition was complete, stirring was continued for 30 minutes at room temperature, then methanol (100 ml) and 2M sodium hydroxide (326 ml) was added, and the mixture stirred overnight at room temperature. The resulting solution was concentrated to one half of the original volume, and acidified to pH 1.2 with 6M hydrochloric acid (108 ml). The reaction mixture was partitioned between ethyl acetate and water, the combined organic extracts dried over magnesium sulfate, and solvent removed under reduced pressure to give 4-(carboxymethylene)-2,3,5,6-tetrahydropyran (22.62 g), which was used with no further purification.

reactant | sodium hydride | 228.2 mmol, 5.48 g | [H-].[Na+]
reactant | trimethylphosphonoacetate | 211.4 mmol, 34.22 ml | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 2,3,5,6-tetrahydropyran-4-one | 163.0 mmol, 16.28 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium hydroxide | 2M, 326 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 204 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
solvent | Methanol | 204 ml | CO | CH4O
product | 4-(carboxymethylene)-2,3,5,6-tetrahydropyran | 22.62 g | C(=O)(O)C=C1CCOCC1 | C7H10O3
